US06562839B1
4-Methyl-3-nitrobenzotrifluoride
To a solution of 4-methylbenzotrifluoride (18.6 g, 116 mmol) in concentrated sulfuric acid (120 ml) was added dropwise a solution of potassium nitrate (12.9 g, 128 mmol) in concentrated sulfuric acid (60 ml) at room temperature over 15 minutes. After stirring for 2 hours at the same temperature, the reaction mixture was poured into ice water, which was extracted with ethyl acetate, dried over anhydrous sodium sulfate, and solvent was distilled off. The residue obtained was submitted to silica gel column chromatography [hexane-ethyl acetate=8:1] to obtain 22.8 g of title compound as pale yellow liquid. Yield 96%.

reactant | 4-methylbenzotrifluoride | 116 mmol, 18.6 g | CC1=CC=C(C=C1)C(F)(F)F | C8H7F3
reactant | potassium nitrate | 128 mmol, 12.9 g | [N+](=O)([O-])[O-].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Methyl-3-nitrobenzotrifluoride | 22.8 g, Yield 96% | CC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO2
